US04705900
A stirred mixture of 3,3-dimethyl-4-(4-fluoro-3-phenoxybenzyloxy)but-1-ene (0.27 g), p-iodoanisole (0.21 g), palladium (II) diacetate (0.02 g), tri-o-toluylphosphine (0.054 g) and tetramethylethylenediamine (0.1 g) was heated at 160° C. for 24 hours. After cooling, the mixture was poured into dilute aqueous hydrochloric acid, and extracted into ethyl acetate, the extracts combined, washed with water, dried over anhydrous magnesium sulphate, and concentrated by evaporation of the solvent to yield a brown oil. The crude product was distilled through a kugelrohr apparatus to give 3,3-dimethyl-1-(4-methoxyphenyl)-4-(4-fluoro-3-phenoxybenzyloxy)but-1-ene (0.033 g), as an oil, containated by 30% of 3,3-dimethyl-2-(4-methoxyphenyl)-4-(4-fluoro-3-phenoxybenzyloxy)but-1-ene.

reactant | 3,3-dimethyl-4-(4-fluoro-3-phenoxybenzyloxy)but-1-ene | 0.27 g | CC(C=C)(COCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)C | C19H21FO2
reactant | p-iodoanisole | 0.21 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | tri-o-toluylphosphine | 0.054 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | tetramethylethylenediamine | 0.1 g | CN(CCN(C)C)C | C6H16N2
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium (II) diacetate | 0.02 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 3,3-dimethyl-1-(4-methoxyphenyl)-4-(4-fluoro-3-phenoxybenzyloxy)but-1-ene | 0.033 g | CC(C=CC1=CC=C(C=C1)OC)(COCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)C | C26H27FO3
